US09353108B2
B) Methyl 4-(benzyloxy)-5-bromo-2-ethoxybenzoate
Potassium carbonate (7.57 g) was added to a mixture of 7-(benzyloxy)-6-bromo-2,2-dimethyl-4H-1,3-benzodioxin-4-one (9.95 g) and methanol (50 mL), and the resultant mixture was stirred overnight at room temperature. The reaction mixture was filtered through celite, and then, the solvent was distilled off under reduced pressure. Iodoethane (3.29 mL) was added to a DMF (50 mL) suspension of the obtained residue and potassium carbonate (7.57 g), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was allowed to cool to room temperature, and then, water was added thereto, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (9.80 g).

reactant | Potassium carbonate | 7.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-(benzyloxy)-6-bromo-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 9.95 g | C(C1=CC=CC=C1)OC=1C(=CC2=C(OC(OC2=O)(C)C)C1)Br | C17H15BrO4
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 4-(benzyloxy)-5-bromo-2-ethoxybenzoate | 9.80 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1Br)OCC | C17H17BrO4
